US05493030
To a solution of 1M sodium bis (trimethylsilyl)amide in tetrahydrofuran (31.7 ml) and 1,3-dimethyl-3,4,5,6-tetrahydro-2 (1H)-pyrimidinone (2.74 ml) at -78° C. was added ethyl (E) 2-{2-[2-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-(S)-yl}acetate (3.39 g) in tetrahydrofuran (35 ml), over a period of 30 minutes. After an additional 30 minutes methyl iodide (2.25 ml) was added. After an additional two hours saturated aqueous ammonium chloride (10 ml) and ethyl acetate were added. The organic solution was dried and evaporated and the residue chromatographed on silica gel, eluting with 4:1 hexane:ethyl acetate, to afford one diastereomer of ethyl (E) 2-{2-[2-(1,3-dihydro-4-hydroxy 6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-(S)-yl}propionate as a low-melting solid.

reactant | sodium bis (trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl (E) 2-{2-[2-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-(S)-yl}acetate | 3.39 g | OC1=C2C(OCC2=C(C(=C1C\C=C/1\[C@@H](CCC1)CC(=O)OCC)OC)C)=O | C21H26O6
reactant | methyl iodide | 2.25 ml | CI | CH3I
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 31.7 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2 (1H)-pyrimidinone | 2.74 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (E) 2-{2-[2-(1,3-dihydro-4-hydroxy 6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-(S)-yl}propionate | OC1=C2C(OCC2=C(C(=C1C\C=C/1\[C@@H](CCC1)C(C(=O)OCC)C)OC)C)=O | C22H28O6
